US03987047
3-Benzyl-11-[β-phenyl-ethyl]oxy-1,2,4,5-tetrahydro-3H-azepino [4,5-b]quinoline
A mixture of 4.5 gm (15 millimols) of 3-benzyl-11-hydroxy-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline, 4.2 gm (30 millimols) of β-phenethyl chloride, 4.15 gm (30 millimols) of potassium carbonate, 5 gm of sodium iodide and 10 ml of butanone-(2) was boiled for 207 hours. The mixture was then suction-filtered, and the filter cake was purified by column chromatography on silicagel with ethyl acetate as the eluant. Yield: 73% of theory; m.p. <20° C.

reactant | 3-benzyl-11-hydroxy-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | 15 millimols, 4.5 gm | C(C1=CC=CC=C1)N1CCC2=NC=3C=CC=CC3C(=C2CC1)O | C20H20N2O
reactant | β-phenethyl chloride | 30 millimols, 4.2 gm | C1=CC=C(C=C1)CCCl | C8H9Cl
reactant | potassium carbonate | 30 millimols, 4.15 gm | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5 gm | [I-].[Na+]
product | 3-Benzyl-11-[β-phenyl-ethyl]oxy-1,2,4,5-tetrahydro-3H-azepino [4,5-b]quinoline | Yield: 73% | C(C1=CC=CC=C1)N1CCC2=NC=3C=CC=CC3C(=C2CC1)OCCC1=CC=CC=C1 | C28H28N2O
